US05712267
(1R,5S,6S)-2-[(2S,4S)-2-(2-Guanidinoethylcarbamoyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid
A procedure similar to that described in Example 101 was repeated, but using 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate (prepared as described in Preparation 123) and (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylguanidino)ethylcarbamoyl]pyrrolidine (prepared as described in Preparation 102) as starting materials, in relative proportions similar to those used in that Example, to obtain the title compound.

reactant | 4-nitrobenzyl (1R,5R,6S)-2-(diphenylphosphoryloxy)-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylate | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)OC=1[C@@H]([C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2[C@@H](C)O)=O)C | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[2-(4-nitrobenzyloxycarbonylguanidino)ethylcarbamoyl]pyrrolidine | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(NCCN(C(=N)N)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C24H27N7O9S
product | (1R,5S,6S)-2-[(2S,4S)-2-(2-Guanidinoethylcarbamoyl)pyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | N(C(=N)N)CCNC(=O)[C@H]1NC[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C | C18H28N6O5S
